US04112117
To a solution of 25.0 grams of 4-chloro 2-acetamidophenol (0.135 mole) in 500 ml of acetone is added 18.7 grams of potassium carbonate (0.135 mole). To the resulting suspension is added 10.20 grams of chloroacetonitrile (0.135 mole). The suspension is stirred for 48 hours at reflux. The reaction mixture is then filtered and the solvent removed under reduced pressure to yield a dark solid residue. Recrystallization of the residue from methylene chloride-petroleum ether (1:1) followed by recrystallization twice more from methanol yields refined 5'-chloro 2'-(cyanomethoxy) acetanilide mp; 146°-149° C.

reactant | 4-chloro 2-acetamidophenol | 0.135 mole, 25.0 grams | ClC1=CC(=C(C=C1)O)NC(C)=O | C8H8ClNO2
reactant | potassium carbonate | 0.135 mole, 18.7 grams | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetonitrile | 0.135 mole, 10.20 grams | ClCC#N | C2H2ClN
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | 5'-chloro 2'-(cyanomethoxy) acetanilide | ClC=1C=CC(=C(NC(C)=O)C1)OCC#N | C10H9ClN2O2
